* C:\Users\fs112159\Documents\GitHub\mppt3\weinberg.asc
L1 N007 N001 4.54mH Rser=.2
L2 0 N002 4.54mH Rser=.2
L3 N009 N007 4.54mH Rser=.2
L4 N008 0 4.54mH Rser=.2
D2 N002 N004 MURS120
D3 N008 N004 MURS120
V1 N011 0 PULSE(0 12 {t0/2} {slew} {slew} {tOn} {t0})
V2 N010 0 PULSE(0 12 0 {slew} {slew} {tOn} {t0})
M1 N001 N010 0 0 BSC16DN25NS3
M2 N009 N011 0 0 BSC16DN25NS3
C1 N004 0 100µF Rser=0
C3 N002 N001 .1µF Rser=.3
C4 N008 N009 .1µF Rser=.3
V4 N005 0 13.5 Rser=.1
C2 N003 0 10µF
R1 N003 N007 3R
R2 N003 0 1000
R3 N006 N003 3
D1 P001 N006 BZX84C15L
I2 0 N006 .3
D5 P002 P001 BZX84C15L
D6 0 P002 BZX84C15L
R4 N005 N004 1
.model D D
.lib C:\Users\fs112159\software\ltspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\fs112159\software\ltspice\lib\cmp\standard.mos
K2 L3 L4 .99
K1 L1 L2 .99
.tran 0 10ms 3ms
.param f0 150k
.step param duty 25 26 .2
.param slew 5n
.param t0 {1/{f0}}
.param tOn {{t0}*{{duty}/100}-{2*{slew}}}
.backanno
.end
